US08309059B2
9-Hydroxy-3-methylnonan-2-one.
Ethyl 2-acetyl-8-(tert-butyldimethylsilyloxy)-2-methyloctanoate (13.5 g, 37.65 mmol) was dissolved in 10 mL CH3OH to which 5 g NaOH in 50 mL water was then added. The mixture was then heated to 50° C. overnight. The volume of the reaction mixture was reduced to about 50 mL under reduced pressure and acidified to pH 1 by the addition of 2 M HCl. This resulting mixture was heated to 60° C. for 5 hours. After cooling to room temperature the product was extracted into EtOAc. Concentration gave a yellow oil that was subjected to silica gel chromatography affording a colorless oil (4.25 g, 65.5%). 1H-NMR (300 MHz, CDCl3): δ 3.60 (t, 2H) 2.46 (m, 1H), 2.09 (s, 3H), 1.54 (m, 4H), 1.30 (m, 6H), 1.04 (d, 3H) ppm; MS m/z calculated for C10H20O2 (M+H): 173.2. Found 173.1 (M+H, ESI+).

reactant | Ethyl 2-acetyl-8-(tert-butyldimethylsilyloxy)-2-methyloctanoate | 37.65 mmol, 13.5 g | C(C)(=O)C(C(=O)OCC)(CCCCCCO[Si](C)(C)C(C)(C)C)C | C19H38O4Si
reactant | NaOH | 5 g | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | CH3OH | 10 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 9-Hydroxy-3-methylnonan-2-one | 4.25 g, 65.5% | OCCCCCCC(C(C)=O)C | C10H20O2
